### PR TITLE
[Merged by Bors] - feat(Order/CompleteLatticeIntervals): Complete lattice instance on `Set.Icc`

### PR DESCRIPTION
**Pull request by tb65536**
This PR adds a complete lattice instance on `Set.Icc`.

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Order/CompleteLatticeIntervals.lean [hunk 1]
```diff
@@ -178,3 +179,49 @@ noncomputable instance ordConnectedSubsetConditionallyCompleteLinearOrder [Inhab
...
+    intro S c hc
+    by_cases hS : S = ∅ <;> simp only [hS, dite_true, dite_false]
+    · simp [hS] at hc
+    · exact csInf_le ⟨a, fun _ ⟨d, _, hd⟩ ↦ hd ▸ d.2.1⟩ ⟨c, hc, rfl⟩
+  le_sInf := by
+    intro S c hc
+    by_cases hS : S = ∅ <;> simp only [hS, dite_true, dite_false]
+    · exact c.2.2
+    · exact le_csInf ((Set.nonempty_iff_ne_empty.mpr hS).image (↑))
+        (fun _ ⟨d, h, hd⟩ ↦ hd ▸ hc d h) }
```
Comment (eric-wieser) [inline Mathlib/Order/CompleteLatticeIntervals.lean:220]: A style golf:
```suggestion
    {a b : α} (h : a ≤ b) : CompleteLattice (Set.Icc a b) where
  __ := Set.Icc.boundedOrder h
  sSup S := if hS : S = ∅ then ⟨a, le_rfl, h⟩ else ⟨sSup ((↑) '' S), by
    rw [←Set.not_nonempty_iff_eq_empty, not_not] at hS
    refine' ⟨_, csSup_le (hS.image (↑)) (fun _ ⟨c, _, hc⟩ ↦ hc ▸ c.2.2)⟩
    obtain ⟨c, hc⟩ := hS
    exact c.2.1.trans (le_csSup ⟨b, fun _ ⟨d, _, hd⟩ ↦ hd ▸ d.2.2⟩ ⟨c, hc, rfl⟩)⟩
  le_sSup S c hc := by
    by_cases hS : S = ∅ <;> simp only [hS, dite_true, dite_false]
    · simp [hS] at hc
    · exact le_csSup ⟨b, fun _ ⟨d, _, hd⟩ ↦ hd ▸ d.2.2⟩ ⟨c, hc, rfl⟩
  sSup_le S c hc := by
    by_cases hS : S = ∅ <;> simp only [hS, dite_true, dite_false]
    · exact c.2.1
    · exact csSup_le ((Set.nonempty_iff_ne_empty.mpr hS).image (↑))
        (fun _ ⟨d, h, hd⟩ ↦ hd ▸ hc d h)
  sInf S := if hS : S = ∅ then ⟨b, h, le_rfl⟩ else ⟨sInf ((↑) '' S), by
    rw [←Set.not_nonempty_iff_eq_empty, not_not] at hS
    refine' ⟨le_csInf (hS.image (↑)) (fun _ ⟨c, _, hc⟩ ↦ hc ▸ c.2.1), _⟩
    obtain ⟨c, hc⟩ := hS
    exact le_trans (csInf_le ⟨a, fun _ ⟨d, _, hd⟩ ↦ hd ▸ d.2.1⟩ ⟨c, hc, rfl⟩) c.2.2⟩
  sInf_le S c hc := by
    by_cases hS : S = ∅ <;> simp only [hS, dite_true, dite_false]
    · simp [hS] at hc
    · exact csInf_le ⟨a, fun _ ⟨d, _, hd⟩ ↦ hd ▸ d.2.1⟩ ⟨c, hc, rfl⟩
  le_sInf S c hc := by
    by_cases hS : S = ∅ <;> simp only [hS, dite_true, dite_false]
    · exact c.2.2
    · exact le_csInf ((Set.nonempty_iff_ne_empty.mpr hS).image (↑))
        (fun _ ⟨d, h, hd⟩ ↦ hd ▸ hc d h)
```

File: Mathlib/Order/CompleteLatticeIntervals.lean [hunk 2]
```diff
@@ -178,3 +179,49 @@ noncomputable instance ordConnectedSubsetConditionallyCompleteLinearOrder [Inhab
 #align ord_connected_subset_conditionally_complete_linear_order ordConnectedSubsetConditionallyCompleteLinearOrder
 
 end OrdConnected
+
+section Icc
+
+/-- Complete lattice structure on `Set.Icc` -/
+noncomputable def Set.Icc.completeLattice [ConditionallyCompleteLattice α]
+    {a b : α} (h : a ≤ b) : CompleteLattice (Set.Icc a b) :=
```
Comment (eric-wieser) [inline Mathlib/Order/CompleteLatticeIntervals.lean:187]: As a follow-up PR: I think these are all pretty good candidates for `[Fact (a ≤ b)]`

File: Mathlib/Order/CompleteLatticeIntervals.lean [hunk 3]
```diff
@@ -178,3 +179,49 @@ noncomputable instance ordConnectedSubsetConditionallyCompleteLinearOrder [Inhab
...
+    by_cases hS : S = ∅ <;> simp only [hS, dite_true, dite_false]
+    · simp [hS] at hc
+    · exact le_csSup ⟨b, fun _ ⟨d, _, hd⟩ ↦ hd ▸ d.2.2⟩ ⟨c, hc, rfl⟩
+  sSup_le := by
+    intro S c hc
+    by_cases hS : S = ∅ <;> simp only [hS, dite_true, dite_false]
+    · exact c.2.1
+    · exact csSup_le ((Set.nonempty_iff_ne_empty.mpr hS).image (↑))
+        (fun _ ⟨d, h, hd⟩ ↦ hd ▸ hc d h)
+  sInf := fun S ↦ if hS : S = ∅ then ⟨b, h, le_rfl⟩ else ⟨sInf ((↑) '' S), by
```
Comment (eric-wieser) [inline Mathlib/Order/CompleteLatticeIntervals.lean:205]: Can you add a lemma that says on nonempty sets, `(sInf s : α) = sInf ((↑) '' S)`, and similarly for `iInf` and the `Sup`s?

File: Mathlib/Order/CompleteLatticeIntervals.lean [hunk 4]
```diff
@@ -178,3 +179,45 @@ noncomputable instance ordConnectedSubsetConditionallyCompleteLinearOrder [Inhab
...
+  le_sInf S c hc := by
+    by_cases hS : S = ∅ <;> simp only [hS, dite_true, dite_false]
+    · exact c.2.2
+    · exact le_csInf ((Set.nonempty_iff_ne_empty.mpr hS).image (↑))
+        (fun _ ⟨d, h, hd⟩ ↦ hd ▸ hc d h)
+
+/-- Complete linear order structure on `Set.Icc` -/
+noncomputable def Set.Icc.completeLinearOrder [ConditionallyCompleteLinearOrder α]
+    {a b : α} (h : a ≤ b) : CompleteLinearOrder (Set.Icc a b) :=
+{ Set.Icc.completeLattice h, Subtype.linearOrder _ with }
```
Comment (eric-wieser) [inline Mathlib/Order/CompleteLatticeIntervals.lean:221]:
```suggestion
  { Set.Icc.completeLattice h, Subtype.linearOrder _ with }
```

File: Mathlib/Order/CompleteLatticeIntervals.lean (hunk 3 above)
Comment (tb65536) [reply Mathlib/Order/CompleteLatticeIntervals.lean]: How should this be phrased? The issue that I'm having is that `sInf S` is not defined since the lattice structure on `Set.Icc a b` is a def rather than an instance.

Comment (eric-wieser) [reply Mathlib/Order/CompleteLatticeIntervals.lean]: You can phrase it as:
```lean
lemma coe_sInf (h) :
    letI := thisInstanceDef h
    the_statement_now_that_the_instance_is_available :=by
  letI := thisInstanceDef h  -- we need this again in the proof
  sorry
```

File: Mathlib/Order/CompleteLatticeIntervals.lean [hunk 5]
```diff
@@ -220,4 +220,24 @@ noncomputable def Set.Icc.completeLinearOrder [ConditionallyCompleteLinearOrder
...
+  congrArg Subtype.val (dif_neg hS.ne_empty)
+
+lemma Set.Icc.coe_sInf [ConditionallyCompleteLattice α] {a b : α} (h : a ≤ b)
+    {S : Set (Set.Icc a b)} (hS : S.Nonempty) : letI := Set.Icc.completeLattice h
+    ↑(sInf S) = sInf ((↑) '' S : Set α) :=
+  congrArg Subtype.val (dif_neg hS.ne_empty)
+
+lemma Set.Icc.coe_iSup [ConditionallyCompleteLattice α] {a b : α} (h : a ≤ b)
+    {β : Type*} [Nonempty β] {S : β → Set.Icc a b} : letI := Set.Icc.completeLattice h
+    ↑(iSup S) = iSup ((↑) ∘ S : β → α) :=
```
Comment (eric-wieser) [inline Mathlib/Order/CompleteLatticeIntervals.lean:235]: I think we'd normally write the RHS here with `\infi` notation, especially since `∘` is not reducible any more.

File: Mathlib/Order/CompleteLatticeIntervals.lean [hunk 6]
```diff
@@ -220,4 +220,24 @@ noncomputable def Set.Icc.completeLinearOrder [ConditionallyCompleteLinearOrder
...
+  (Set.Icc.coe_sSup h (range_nonempty S)).trans (congrArg sSup (range_comp Subtype.val S).symm)
+
+lemma Set.Icc.coe_iInf [ConditionallyCompleteLattice α] {a b : α} (h : a ≤ b)
+    {β : Type*} [Nonempty β] {S : β → Set.Icc a b} : letI := Set.Icc.completeLattice h
```
Comment (eric-wieser) [inline Mathlib/Order/CompleteLatticeIntervals.lean:239]: Does this generalize to `Sort`?
```suggestion
    {β : Sort*} [Nonempty β] {S : β → Set.Icc a b} : letI := Set.Icc.completeLattice h
```
Also

**Review by eric-wieser — APPROVED** [review]
bors d+

Thanks!
